US09422312B2
Step 1: 4-Bromo-N,N′-dimethyl-benzenesulfonimidamide
The title compound is prepared from 4-bromo-benzenesulfinic acid methylamide and methylamine following a procedure analogous to that described for Intermediate 17 (Step 2). LC (method 1): tR=0.70 min; Mass spectrum (ESI+): m/z=263, 265 [M+H]+.

reactant | 4-bromo-benzenesulfinic acid methylamide | CNS(=O)C1=CC=C(C=C1)Br | C7H8BrNOS
reactant | methylamine | CN | CH5N
product | 4-Bromo-N,N′-dimethyl-benzenesulfonimidamide | BrC1=CC=C(C=C1)S(=O)(NC)=NC | C8H11BrN2OS
